US07713994B2
4′-Fluoro-2-methoxy-biphenyl-4-carboxylic acid methyl ester
4-Iodo-3-methoxy-benzoic acid methyl ester (292 mg, 1 mmol) and para-fluorophenylboronic acid (160 mg, 1.14 mmol) and Pd(PPh3)4 (80 mg, 0.069 mmol) and Cs2CO3 (600 mg, 1.84 mmol) is mixed in N,N-dimethylformamide (10 mL) and degassed and then heated at 100° C. for 4 hours. After which, the mixture is allowed to cool to room temperature and an aqueous work up is performed and the residue purified to afford the desired product (240 mg, 92%).

reactant | 4-Iodo-3-methoxy-benzoic acid methyl ester | 1 mmol, 292 mg | COC(C1=CC(=C(C=C1)I)OC)=O | C9H9IO3
reactant | para-fluorophenylboronic acid | 1.14 mmol, 160 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Cs2CO3 | 1.84 mmol, 600 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 0.069 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-Fluoro-2-methoxy-biphenyl-4-carboxylic acid methyl ester | 240 mg, 92% | COC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)F)OC | C15H13FO3
